US07592363B2
2-Benzyl-3-phenyl-7-trifluoromethyl-2H-indazole (353 mg, 1 mmol), prepared similarly to that of Example 1, was treated with 3 ml of 70% aq H2SO4 at 90° C. for 4 hours. After cooling, 10 volumes of water were added and the product was extracted with dichloromethane. Flash column chromatography (SiO2, dichloromethane as an eluant) afforded 2-benzyl-3-phenyl-2H-indazole-7-carboxylic acid in 60% yleld. The 2-benzyl-3-phenyl-2H-indazole-7-carboxylic acid (1.64 g, 5 mmol) was dissolved in 20 ml of pyridine followed by addition of 1-(-3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.34 g, 7 mmol) and N,O-dimethyhydroxylamine hydrochloride (585 mg, 6 mmol). The reaction mixture was stirred at room temperature overnight. Pyridine was evaporated and the residue was shaken with 0.5M aq HCl and dichloromethane. The product was extracted with dichloromethane, and flash column chromatography (SiO2, dichloromethane as an eluant) afforded 2-benzyl-3-phenyl-2H-indazole-7-carboxylic acid methoxy-methyl-amide in 79% yleld.

reactant | 2-benzyl-3-phenyl-2H-indazole-7-carboxylic acid | 5 mmol, 1.64 g | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C1=CC=CC=C1)C(=O)O | C21H16N2O2
reactant | 1-(-3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 7 mmol, 1.34 g | Cl.CN(CCCN=C=NCC)C
reactant | N,O-dimethyhydroxylamine hydrochloride | 6 mmol, 585 mg | Cl.CNOC
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-benzyl-3-phenyl-2H-indazole-7-carboxylic acid methoxy-methyl-amide | CON(C(=O)C1=CC=CC2=C(N(N=C12)CC1=CC=CC=C1)C1=CC=CC=C1)C | C23H21N3O2
